US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-hydroxymethyl-cyclobutyl)-amide
The title compound was synthesized in analogy to Example 8e, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.43 mmol) and 1-amino-cyclobutanemethanol (CAN 180205-34-9, 66.02 mg, 0.64 mmol) as starting materials, and isolated (50 mg, 36.86%) as off white solid; LC-MS (UV peak area, ESI) 97.56%, 318.4 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.43 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 1-amino-cyclobutanemethanol | 0.64 mmol, 66.02 mg | NC1(CCC1)CO | C5H11NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-hydroxymethyl-cyclobutyl)-amide | OCC1(CCC1)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C17H23N3O3
